US06951868B2
To a stirred solution of methyl 4-formyl-3-hydroxybenzoate [see: Harayama, Chem. Pharm. Bull. 1994, 2170] (0.8 g, 4.1 mmol) and anhydrous K2CO3 (1.1 g, 8.0 mmol) in acetone (12 mL) is added allyl bromide (0.70 mL, 8.1 mmol). The mixture is heated in a 48° C. oil bath for 2 h. The reaction mixture is cooled to rt and filtered. The mother liquor is concentrated in vacuo to a brown oil. The crude product is purified by flash chromatography on SiO2. Elution with hexanes-EtOAc (85:15) gives 0.85 g (49%) of methyl 3-(allyloxy)-4-formylbenzoate as a clear solid: 1H NMR (400 MHz, CDCl3) δ 10.6, 7.9, 7.7, 6.1, 5.5, 5.4, 4.8, 4.0.

reactant | methyl 4-formyl-3-hydroxybenzoate | 4.1 mmol, 0.8 g | C(=O)C1=C(C=C(C(=O)OC)C=C1)O | C9H8O4
reactant | K2CO3 | 8.0 mmol, 1.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 8.1 mmol, 0.70 mL | C(C=C)Br | C3H5Br
solvent | acetone | 12 mL | CC(=O)C | C3H6O
product | methyl 3-(allyloxy)-4-formylbenzoate | 0.85 g, 49% | C(C=C)OC=1C=C(C(=O)OC)C=CC1C=O | C12H12O4
